US04377695
8-(2-Oxo-benzthiazolin-3-yl)-caprylic acid methyl ester
The product is produced as described in example 1 from 3 g. of NaH (80% suspension in mineral oil), 15.1 g. of benzthiazolin-2-one, 200 cc. of DMF, 23.7 g. of 8-bromo-caprylic acid methyl ester and 3 g. NaJ.

reactant | NaH | [H-].[Na+]
reactant | benzthiazolin-2-one | S1C(NC2=C1C=CC=C2)=O | C7H5NOS
reactant | 8-bromo-caprylic acid methyl ester | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(2-Oxo-benzthiazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(SC2=C1C=CC=C2)=O)=O | C16H21NO3S
